* POGO block-2 LFO — frequency is V_sat-INDEPENDENT (.tran ratio, PARALLEL instances)
* CLAIM (spec block-2 §2 lines 67-73; aux-lfo-core lines 99-102):
*   f = (R5+R7)/(4*R7*R_INT*C_INT) contains NO V_sat term: the Schmitt threshold
*     V_H = V_sat*R7/(R5+R7) scales WITH V_sat, so V_sat cancels in
*     f = V_sat/(4*V_H*R_INT*C_INT). Hence two copies of the SAME oscillator run at the
*     SAME frequency regardless of their rail/saturation voltage.
*   PROOF: instantiate TWO identical oscillators (guide rule 5 — parallel, no alter loops),
*     copy A at Vsat = 11 V (rounded +/-10.5..12 band), copy B at Vsat = 12 V; measure each
*     period and report f_ratio = f_a/f_b. Expect 1.0 (V_sat cancels).
*
* This is a RATIO check (V_sat cancels), so the result is value-independent of V_sat. The
*   R1/C1/R5/R7 binds are still declared so a NETLIST passive drift trips the gate (a wrong
*   R7 in the shared topology would change BOTH copies' frequency, but a TYPO that hits only
*   one copy's literal would break the ratio -> the bind + ratio together guard the topology).
*
* IDEAL MODELS: same as lfo_fmax (Eint integrator op-amp; Bsq rail comparator; Bdrv inverter).
*   The comparator clamps to each copy's own +/-Vsat so the V_H-scales-with-V_sat cancellation
*   is exercised exactly.

* ===== Copy A: Vsat = 11 V =====
Bdrva ndrva 0 V = -V(vsqa)
Einta nvtria 0 0 nsuma 1e6
R1a ndrva nsuma 590k
C1a nsuma nvtria 47nF
R5a vsqa nplusa 100k
R7a nplusa 0 82k
Bsqa vsqa 0 V = (V(nplusa) > V(nvtria)) ? 11 : -11

* ===== Copy B: Vsat = 12 V =====
Bdrvb ndrvb 0 V = -V(vsqb)
Eintb nvtrib 0 0 nsumb 1e6
R1b ndrvb nsumb 590k
C1b nsumb nvtrib 47nF
R5b vsqb nplusb 100k
R7b nplusb 0 82k
Bsqb vsqb 0 V = (V(nplusb) > V(nvtrib)) ? 12 : -12

.ic v(nvtria)=0.1 v(nvtrib)=0.1
.tran 0.1m 0.6 uic

.control
  run
  meas tran ta1 WHEN v(nvtria)=0 RISE=2
  meas tran ta2 WHEN v(nvtria)=0 RISE=3
  meas tran tb1 WHEN v(nvtrib)=0 RISE=2
  meas tran tb2 WHEN v(nvtrib)=0 RISE=3
  let f_a = 1/(ta2-ta1)
  let f_b = 1/(tb2-tb1)
  let f_ratio = f_a/f_b
  print f_ratio
.endc
.end
